US07148226B2
5-chloro-1-methyl-1H-benzimidazole-2-carbaldehyde
A solution of (5-chloro-1-methyl-1H-benzimidazol-2-yl)methanol (1.5 g, 7.7 mmol) dissolved in CH2Cl2 at room temperature was treated with Dess-Martin periodinane (4.9 g, 11.5 mmol). The reaction was stirred for 15 hours before the solvent was removed. The residue was purified by flash column chromatography (0–3% MeOH in CH2Cl2) to give the product (1.0 g, 66% yield). 1H NMR (300 MHz, CDCl3) δ: 4.16 (s, 3 H), 7.40–7.47 (m, 2 H), 7.90–7.93 (m, 1 H), 10.11 (s, 1 H).

reactant | (5-chloro-1-methyl-1H-benzimidazol-2-yl)methanol | 7.7 mmol, 1.5 g | ClC1=CC2=C(N(C(=N2)CO)C)C=C1 | C9H9ClN2O
reactant | Dess-Martin periodinane | 11.5 mmol, 4.9 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-chloro-1-methyl-1H-benzimidazole-2-carbaldehyde | 1.0 g, 66% yield | ClC1=CC2=C(N(C(=N2)C=O)C)C=C1 | C9H7ClN2O
